US09428528B2
Step 1 Preparation of (5-Bromo-pyridin-2-ylmethyl)-carbamic acid tert-butyl ester
To a solution of 5-Bromo-pyridine-2-carbonitrile (2 g, 10.92 mmol, 1 eq) in methanol (20.0 mL) is added NiCl2.6H2O (0.259 g, 1.09 mmol, 0.1 eq) and di-tert-butyldicarbonate (4.76 g, 21.85 mmol, 2 eq). To this resulting mixture is added NaBH4 (0.830 g, 21.57 mmol, 2 eq) at 0° C. (NaBH4 is added in portions). The resulting reaction mixture is stirred at room temperature for 16 hours. Solvent is evaporated in vacuo and the residue diluted with water and extracted with ethyl acetate. The organic layer is dried over Na2SO4 and solvent is evaporated in vacuo to give crude material which is purified by column chromatography eluting in 10% ethyl acetate/n-Hexane to afford the title compound (1.2 g): 1H-NMR (400 MHz, CDCl3) δ: 1.44 (s, 9H), 4.37 (d, 2H, J=5.52 Hz), 5.41-5.44 (bs, 1H), 7.18 (d, 1H, J=8.32 Hz), 7.76 (dd, 1H, J1=2.26 Hz, J2=8.30 Hz), 8.58 (d, 1H, J=4 Hz). LC-Ms (m/z): [M+H]=286.9.

reactant | 5-Bromo-pyridine-2-carbonitrile | 10.92 mmol, 2 g, 1 eq | BrC=1C=CC(=NC1)C#N | C6H3BrN2
reactant | di-tert-butyldicarbonate | 21.85 mmol, 4.76 g, 2 eq | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaBH4 | 21.57 mmol, 0.830 g, 2 eq | [BH4-].[Na+]
solvent | methanol | 20.0 mL | CO | CH4O
product | (5-Bromo-pyridin-2-ylmethyl)-carbamic acid tert-butyl ester | 1.2 g | C(C)(C)(C)OC(NCC1=NC=C(C=C1)Br)=O | C11H15BrN2O2
